US05593983
The (2β,3α,5α)-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione (8.0 g), 2-aminoethanol (40 ml), toluene (200 ml) and Dowex 50-W resin (0.8 g) were added to a flask fitted with a water separator. The mixture was heated under reflux for 10 h, by which time approximately 15 ml of a distillate had collected in the water separator. The contents of the flask were filtered while still hot and the residue was rinsed with hot toluene. The filtrate was washed with water, dried over sodium sulfate and the solvent was removed under reduced pressure to give (2β,3α,5α)-3-hydroxy-20-[(2-hydroxyethyl)imino]-2-(2,2-dimethyl-4-morpholinyl)pregnan-11-one. δ (CDCl3) 0.50 (s,3H), 1.05 (s,3H), 1.21 (s,3H), 1.23 (s,3H) and 2.36 (s,2H).

reactant | (2β,3α,5α)-3-hydroxy-2-(2,2-dimethyl-4-morpholinyl)pregnane-11,20-dione | 8.0 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1N1CC(OCC1)(C)C)C)=O)C | C27H43NO4
reactant | 2-aminoethanol | 40 ml | NCCO | C2H7NO
reactant | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (2β,3α,5α)-3-hydroxy-20-[(2-hydroxyethyl)imino]-2-(2,2-dimethyl-4-morpholinyl)pregnan-11-one | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=NCCO)[C@]4(CC([C@@H]3[C@]2(C[C@@H]1N1CC(OCC1)(C)C)C)=O)C | C29H48N2O4
